US08975406B2
N-(4-Bromopyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide (265 mg, 0.95 mmol), (R)-tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyrrolidine-1-carboxylate (442 mg, 1.14 mmol), PdCl2dppf (39 mg, 0.047 mmol) and Na2CO3 (501 mg, 4.73 mmol) were stirred in 1,4-dioxane (15 ml) and water (3 ml) and heated at 100° C. for 2 h. The reaction mixture was cooled to room temperature and filtered through celite. The residue was partitioned between EtOAc and water and the aqueous phase was extracted with EtOAc. The combined organics were dried (MgSO4), filtered and concentrated in vacuo to give (R)-tert-Butyl 3-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)phenoxy)pyrrolidine-1-carboxylate as a brown oil which was used in the next step without further purification.

reactant | N-(4-Bromopyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | 0.95 mmol, 265 mg | BrC=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C11H10BrN3O
reactant | (R)-tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)pyrrolidine-1-carboxylate | 1.14 mmol, 442 mg | CC1(OB(OC1(C)C)C1=CC=C(O[C@H]2CN(CC2)C(=O)OC(C)(C)C)C=C1)C | C21H32BNO5
reactant | Na2CO3 | 4.73 mmol, 501 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 3 ml | O | H2O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (R)-tert-Butyl 3-(4-(2-(cyclopropanecarboxamido)pyrazolo[1,5-a]pyridin-4-yl)phenoxy)pyrrolidine-1-carboxylate | C1(CC1)C(=O)NC1=NN2C(C(=CC=C2)C2=CC=C(O[C@H]3CN(CC3)C(=O)OC(C)(C)C)C=C2)=C1 | C26H30N4O4
